US04497817
A solution of 6.8 g of 2-aminobenzothiazole and 7.2 g of 2,4-diacetoxy-α-bromoacetophenone in 100 ml of methyl ethyl ketone was refluxed for 3 hours. After cooling the reaction mixture, 50 ml of ether was added to the reaction mixture, the precipitates formed were filtered away, and the mother liquor was concentrated under reduced pressure. The residue formed was dissolved in 10 ml of tetrahydrofuran and 10 ml of ether and then the solution was acidified by the addition of a hydrogen chloride-ethanol solution. Crystals formed which were recovered by filtration, dried and then refluxed together with 50 ml of methylcellosolve for 5 hours. The reaction mixture was alkalified by the addition of concentrated aqueous ammonia and then cooled to form crystals, which were recovered by filtration and recrystallized from tetrahydrofuran-n-hexane to provide 1 g of 2-(2,4-dihydroxyphenyl)imidazo[2,1-b]benzothiazole.

reactant | 2-aminobenzothiazole | 6.8 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | hydrogen chloride ethanol | Cl.C(C)O
reactant | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2,4-dihydroxyphenyl)imidazo[2,1-b]benzothiazole | 1 g | OC1=C(C=CC(=C1)O)C=1N=C2SC3=C(N2C1)C=CC=C3 | C15H10N2O2S
